US09382237B2
To a solution of 1.50 g (2-cyano-3,3-bis(methylthio)acrylamide) in 15 mL of ethanol. was added 1.084 mL (1.0 eq.) of 4-isopropylaniline, and the reaction was stirred at 75° C. until starting amide was absent as confirmed by HPLC. Once complete (18 hrs), the reaction was brought to room temperature and filtered to obtain 2-cyano-3-((4-isopropylphenyl)amino)-3-(methylthio)acrylamide as an off white to light yellow powder as product. Product was allowed to dry under vacuum for 1 hr (1.360 g, 62% yield).

reactant | 2-cyano-3,3-bis(methylthio)acrylamide | C(#N)C(C(=O)N)=C(SC)SC | C6H8N2OS2
reactant | 4-isopropylaniline | 1.084 mL, 1.0 eq. | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-cyano-3-((4-isopropylphenyl)amino)-3-(methylthio)acrylamide | 62% yield | C(#N)C(C(=O)N)=C(SC)NC1=CC=C(C=C1)C(C)C | C14H17N3OS
